US04120856
A stirred suspension of 4.2 g (0.012 mole) of 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-3-hydroxy-2H-1,4-benzodiazepin-2-one in 200 ml methylene chloride was cooled to -70°, and 5 ml (0.04 mole) of diethylaminosulfur trifluoride was added dropwise. The reaction mixture was allowed to warm to -10°, and held at this temperature until most of the solid had dissolved. The reaction mixture was poured into ice-water and stirred vigorously. The organic layer was separated, washed with water, dried (MgSO4) and evaporated to dryness under reduced pressure. The residue was recrystallized from benzene-hexane to give 3.12 g of 3-fluoro-7-bromo-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one as light yellow crystals: mp 195°-197° (dec.); 19F nmr (DMSO-d6) δ -113.0 ppm (m, 1F) and -162.1 ppm (d, J = 56 Hz, 1F); 1H nmr (DMSO-d6) δ 5.88 ppm (d, J = 56 Hz, 1H), 7.2-7.9 ppm (m, 7H), 11.2 ppm (NH).

reactant | 7-bromo-5-(2-fluorophenyl)-1,3-dihydro-3-hydroxy-2H-1,4-benzodiazepin-2-one | 0.012 mole, 4.2 g | BrC=1C=CC2=C(C(=NC(C(N2)=O)O)C2=C(C=CC=C2)F)C1 | C15H10BrFN2O2
reactant | diethylaminosulfur trifluoride | 0.04 mole, 5 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-7-bromo-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 3.12 g | FC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=C(C=C2)Br)=O | C15H9BrF2N2O
